US07947834B2
0.032 g of 1-butyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline, dissolved in 0.9 ml of dichloromethane, is introduced into a 10 ml round-bottomed flask. 0.45 ml of a 0.2N solution of hydrochloric acid in ether is subsequently added. Stirring is maintained for ten minutes. After evaporating, 0.030 g of 1-butyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline hydrochloride is obtained.

reactant | 1-butyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline | 0.032 g | C(CCC)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NC=CC1 | C22H28N4O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 0.9 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-butyl-4-[(3-(pyridin-3-yl)pyrrolidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoxaline hydrochloride | 0.030 g | Cl.C(CCC)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NC=CC1 | InChI=1S/C22H28N4O.ClH/c1-2-3-12-24-14-15-26(21-9-5-4-8-20(21)24)22(27)25-13-10-19(17-25)18-7-6-11-23-16-18;/h4-9,11,16,19H,2-3,10,12-15,17H2,1H3;1H
